US06960586B2
Production of 2-(dimethylamino)-7-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl]-1,2-dihydro-3H-benzo[e]isoindol-3-one
By a ring closure reaction, a detritylation reaction and purification in the same manner as in Example 1 using methyl 1-bromomethyl-6-[1-hydroxy-2-methyl-1-(1-H-imidazol-4-yl)propyl]-2-naphthoate (0.66 g) and 1,1-dimethylhydrazine (1.0 ml), the title compound (0.18 g) was obtained as a colorless amorphous solid.

reactant | methyl 1-bromomethyl-6-[1-hydroxy-2-methyl-1-(1-H-imidazol-4-yl)propyl]-2-naphthoate | 0.66 g | BrCC1=C(C=CC2=CC(=CC=C12)C(C(C)C)(C=1N=CNC1)O)C(=O)OC | C20H21BrN2O3
reactant | 1,1-dimethylhydrazine | 1.0 ml | CN(N)C | C2H8N2
product | 2-(dimethylamino)-7-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl]-1,2-dihydro-3H-benzo[e]isoindol-3-one | 0.18 g | CN(N1C(C=2C=CC3=C(C2C1)C=CC(=C3)C(C(C)C)(C=3N=CNC3)O)=O)C | C21H24N4O2
